US04267176
A 15% n-hexane solution (636 g.) of n-butyllithium was added to a solution of 6-amino-2-methylpyridine (64.8 g.) in tetrahydrofuran (500 ml.) at -20° to -30° C. over one hour, and stirred at -8° to -10° C. for 30 minutes. To the solution was added trimethylsilylchloride (161.7 g.) at -15° to -5° C. over 40 minutes, and the resultant solution was stirred at room temperature overnight. The solution was filtered through by a column packed with silica gel (180 g.), washed with tetrahydrofuran and then the filtrate was concentrated under reduced pressure. The residue was purified by fractional distillation to give 6-[N,N-bis(trimethylsilyl)amino]-2-methylpyridine (117.6 g.), b.p. 95° to 97° C./5-6 mm.

reactant | n-hexane | 636 g | CCCCCC | C6H14
reactant | n-butyllithium | C(CCC)[Li]
reactant | 6-amino-2-methylpyridine | 64.8 g | NC1=CC=CC(=N1)C | C6H8N2
reactant | trimethylsilylchloride | 161.7 g | C[Si](C)(C)Cl | C3H9ClSi
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 6-[N,N-bis(trimethylsilyl)amino]-2-methylpyridine | 117.6 g | C[Si](N([Si](C)(C)C)C1=CC=CC(=N1)C)(C)C | C12H24N2Si2
